US09079889B2
To 2-bromo-3-fluoro-6-methylpyridine (1.0 equiv.) in H2O (30 mL) was added potassium permanganate (1.0 equiv.). The solution was heated at 100° C. for 5 hours at which time more potassium permanganate (1.0 equiv.) was added. After heating for an additional 48 hours the material was filtered through celite (4 cm×2 inches) and rinsed with H2O (150 mL). The combined aqueous was acidified with 1N HCl to pH=4, extracted with ethyl acetate (200 mL), washed with NaCl(sat.), dried over MgSO4, filtered and concentrated to yield 6-bromo-5-fluoropicolinic acid (17%) as a white solid. LCMS (m/z): 221.9 (MH+); LC Rt=2.05 min.

reactant | 2-bromo-3-fluoro-6-methylpyridine | 1.0 equiv. | BrC1=NC(=CC=C1F)C | C6H5BrFN
reactant | potassium permanganate | 1.0 equiv. | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | potassium permanganate | 1.0 equiv. | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | H2O | 30 mL | O | H2O
product | 6-bromo-5-fluoropicolinic acid | 17% | BrC1=C(C=CC(=N1)C(=O)O)F | C6H3BrFNO2
